US07834019B2
At 0° C., 68 mg of m-chloroperbenzoic acid was added to a chloroform solution of 91 mg of 2-(2-methoxyphenyl)-1-methyl-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one, and stirred for 1 hour. Aqueous saturated sodium hydrogencarbonate solution was added thereto, and extracted with chloroform to obtain crude 2-(2-methoxyphenyl)-1-methyl-6-(methylsulfinyl)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one.

reactant | m-chloroperbenzoic acid | 68 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(2-methoxyphenyl)-1-methyl-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | 91 mg | COC1=C(C=CC=C1)N1N(C2=NC(=NC=C2C1=O)SC)C | C14H14N4O2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-methoxyphenyl)-1-methyl-6-(methylsulfinyl)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | COC1=C(C=CC=C1)N1N(C2=NC(=NC=C2C1=O)S(=O)C)C | C14H14N4O3S
